US20010003772A1
In a 2-liter flask, 30 g of p-(1,4,4-trimethyl-4-silacyclohexyloxy)styrene and 45 g of acetoxystyrene were dissolved in 560 ml of toluene. After thorough purging of oxygen from the system, 5.5 g of an initiator AIBN was added to the system, which was heated at 60° C. whereupon polymerization reaction took place for 24 hours. A similar subsequent procedure yielded a p-(1,4,4-trimethyl-4-silacyclohexyloxy)styrene/hydroxystyrene (3:7) copolymer. This polymer was transferred to a 3-liter flask where it was dissolved in 500 g of methanol and 400 g of acetone. 97 g of triethylamine and 50 g of pure water were added to the solution, which was heated at 60° C. whereupon hydrolysis reaction took place for 20 hours.

reactant | acetoxystyrene | 45 g | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | p-(1,4,4-trimethyl-4-silacyclohexyloxy)styrene | 30 g | CC1(CC[Si](CC1)(C)C)OC1=CC=C(C=C)C=C1 | C16H24OSi
solvent | toluene | 560 ml | C1(=CC=CC=C1)C | C7H8
product | p-(1,4,4-trimethyl-4-silacyclohexyloxy)styrene hydroxystyrene | CC1(CC[Si](CC1)(C)C)OC1=CC=C(C=C)C=C1.OC=CC1=CC=CC=C1 | InChI=1S/C16H24OSi.C8H8O/c1-5-14-6-8-15(9-7-14)17-16(2)10-12-18(3,4)13-11-16;9-7-6-8-4-2-1-3-5-8/h5-9H,1,10-13H2,2-4H3;1-7,9H
